US07485732B2
Step 4 3-[(S)-[(3-chloro-2-hydroxypropyl)amino](4-chlorophenyl)methyl]benzonitrile
A solution of 14.0 g (58 mmole) of 3-[(S)-amino(4-chlorophenyl)methyl]benzonitrile and 10.8 g (120 mmole) of epichlorhydrin in 200 mL of methanol was stirred in the dark for 72 hours. The solution was partitioned between CH2Cl2 and water and the layers were separated. The organic layer was dried over Na2SO4 and concentrated to afford the title compound, which was used in the next step without purification; 335 (M+1, 35Cl); 337 (M+1, 37Cl).

reactant | 3-[(S)-amino(4-chlorophenyl)methyl]benzonitrile | 58 mmole, 14.0 g | N[C@H](C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)Cl | C14H11ClN2
reactant | epichlorhydrin | 120 mmole, 10.8 g | C(Cl)C1CO1 | C3H5ClO
solvent | methanol | 200 mL | CO | CH4O
product | 3-[(S)-[(3-chloro-2-hydroxypropyl)amino](4-chlorophenyl)methyl]benzonitrile | ClCC(CN[C@H](C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)Cl)O | C17H16Cl2N2O
